US08283660B2
Synthesis of 5-bromo-2-(methylthio)benzaldehyde (2)
In a 100 mL 2-neck round-bottomed flask 2-(methylthio)benzaldehyde (5 grams, 32.8 mmol) and iron(III) bromide (0.485 grams, 1.642 mmol) were dissolved in PhCl (10 ml) to give a brown solution. The reaction mixture was heated to 70° C. and treated dropwise with a solution of bromine (1.78 mL, 34.5 mmol) in PhCl (8 mL) via an addition funnel. The mixture was heated at 70° C. After 5 hours, the heating source was removed and the reaction was cooled to room temperature. The reaction mixture was quenched with a 1:1 mixture of aqueous saturated NaHCO3/Na2SO3 solution (30 mL total). The aqueous layer was separated and extracted with CH2Cl2 (50 mL). The combined organic layers were dried (MgSO4), filtered and concentrated using a rotary evaporator. The residual solution was cooled in the freezer overnight. The crude product precipitated and was isolated by decanting the excess PhCl and drying the product under high vacuum overnight. The structure was confirmed by 1H and 13C NMR spectroscopy. Yield 4.5 grams (60%).

reactant | 2-(methylthio)benzaldehyde | 32.8 mmol, 5 grams | CSC1=C(C=O)C=CC=C1 | C8H8OS
reactant | bromine | 34.5 mmol, 1.78 mL | BrBr | Br2
solvent | PhCl | 10 ml | C1(=CC=CC=C1)Cl | C6H5Cl
solvent | PhCl | 8 mL | C1(=CC=CC=C1)Cl | C6H5Cl
catalyst | iron(III) bromide | 1.642 mmol, 0.485 grams | [Fe](Br)(Br)Br
product | 5-bromo-2-(methylthio)benzaldehyde | BrC=1C=CC(=C(C=O)C1)SC | C8H7BrOS
